### PR TITLE
Add rel comp_comm and comp_inverse_distrib

### PR DESCRIPTION
**Pull request by FWuermse**

### CODE REVIEW

File: Hm/Relation.lean [hunk 1]
```diff
@@ -77,4 +77,22 @@ def comp : Relation α γ := { t | ∃ a, (t.fst, a) ∈ R ∧ (a, t.snd) ∈ S}
 
 infixr:60 "∘" => comp
 
+theorem comp_comm {R₁ R₂ : Set α} : (∃ x, x ∈ R₁ ∧ x ∈ R₂) → ∃ x, x ∈ R₂ ∧ x ∈ R₁ := by
+  intro h
+  cases h with
+  | intro x hR₂ =>
```
Comment (hargoniX) [inline Hm/Relation.lean:83]: Why is this proposition named R₂ if hR₁ and hR₂ are declared further below again? I'd say this is rather something like hx.

File: Hm/Relation.lean [hunk 2]
```diff
@@ -77,4 +77,22 @@ def comp : Relation α γ := { t | ∃ a, (t.fst, a) ∈ R ∧ (a, t.snd) ∈ S}
 
 infixr:60 "∘" => comp
 
+theorem comp_comm {R₁ R₂ : Set α} : (∃ x, x ∈ R₁ ∧ x ∈ R₂) → ∃ x, x ∈ R₂ ∧ x ∈ R₁ := by
```
Comment (hargoniX) [inline Hm/Relation.lean:80]: This does not prove comp_comm (it can't, after all relation composition isnt commutative)

File: Hm/Relation.lean [hunk 3]
```diff
@@ -77,4 +77,22 @@ def comp : Relation α γ := { t | ∃ a, (t.fst, a) ∈ R ∧ (a, t.snd) ∈ S}
...
+      exists x
+      constructor <;> assumption
+
+theorem comp_inverse_distrib {R₁ R₂: RelationOn α} : (R₁∘R₂)⁻¹ = R₂⁻¹∘R₁⁻¹ := by
+  apply setext
+  intro x
+  apply Iff.intro <;>
+  {
+    intro h;
+    exact comp_comm h
```
Comment (hargoniX) [inline Hm/Relation.lean:95]: Also since the above lemma can now be so compact you could actually inline it here since its merely 2 lines longer.

File: Hm/Relation.lean [hunk 4]
```diff
@@ -77,4 +77,22 @@ def comp : Relation α γ := { t | ∃ a, (t.fst, a) ∈ R ∧ (a, t.snd) ∈ S}
...
 infixr:60 "∘" => comp
 
+theorem comp_comm {R₁ R₂ : Set α} : (∃ x, x ∈ R₁ ∧ x ∈ R₂) → ∃ x, x ∈ R₂ ∧ x ∈ R₁ := by
+  intro h
+  cases h with
+  | intro x hR₂ =>
+    cases hR₂ with
+    | intro hR₁ hR₂ =>
+      exists x
+      constructor <;> assumption
```
Comment (hargoniX) [inline Hm/Relation.lean:87]: Everything after the last statement can actually be simplified to just:
```
      exact Exists.intro x ⟨hx.right, hx.left⟩
```
Which more accurately  represents what is actually going on in the proof (namely that we are applying a commutative property to show a new one under a binder

**Review by hargoniX — CHANGES_REQUESTED** [review]
Apart from the inline comments the main proof here (namely `exact comp_comm h`) only makes sense once you have unfolded all the definitions and fully simplified them (which lean just does automatically here). So basically this theorem is a giant definition unfolding massacre followed by a trivial logical statement. I do feel like inlining the comp_comm theorem (with the proposed changes) here does make it a bit more readable. But in the end it just comes down to definition -> Rewriting and under a binder.
